US09227963B2
1-((5-methyl-1H-pyrazol-1-yl)methyl)cyclooctanol
To a cold (−78° C.) solution of n-butyllithium (10 mL, 2.5M) in tetrahydrofuran (20 mL) was added 1,5-dimethyl-1H-pyrazole (2.0 g) in tetrahydrofuran (10 mL) dropwise via syringe. After 1 hour, cyclooctanone (2.63 g) in tetrahydrofuran (5 mL) was added dropwise and the reaction mixture was allowed to warm to room temperature. The mixture was quenched by the addition of saturated ammonium chloride solution and ethyl acetate. The layers were separated and the aqueous layer was extracted twice with additional ethyl acetate. The combined organics were dried over Na2SO4, filtered, and concentrated to provide the title compound.

reactant | n-butyllithium | 2.5M, 10 mL | C(CCC)[Li]
reactant | 1,5-dimethyl-1H-pyrazole | 2.0 g | CN1N=CC=C1C | C5H8N2
reactant | cyclooctanone | 2.63 g | C1(CCCCCCC1)=O | C8H14O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-((5-methyl-1H-pyrazol-1-yl)methyl)cyclooctanol | CC1=CC=NN1CC1(CCCCCCC1)O | C13H22N2O
